US08486941B2
To a solution of 2,4-dichloro-5-methylpyrimidine (244 mg, 1.5 mmol) and methyl 2-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate (210 mg, 1.0 mmol) in toluene (3 mL) were added n-propanol (1 mL), aqueous sodium bicarbonate (2 M, 1.5 μL) and tetrakis(triphenylphosphine)palladium[0] (116 mg, 0.1 mmol). The reaction was heated at 110° C. for 40 h, then partitioned between ethyl acetate and saturated aqueous sodium bicarbonate. The aqueous layer was extracted twice further with ethyl acetate and the combined organic fractions were washed with water, brine then dried (sodium sulfate), filtered and concentrated. Silica gel chromatography using 30-60% ethyl acetate/petroleum spirit as eluent provided methyl 4-(2-chloro-5-methylpyrimidin-4-yl)-2-methoxybenzoate as a cream solid (165 mg, 56%); LC-ESI-MS (method B): rt 6.2 min.; m/z 293.3/295.3 [M+H]+.

reactant | 2,4-dichloro-5-methylpyrimidine | 1.5 mmol, 244 mg | ClC1=NC=C(C(=N1)Cl)C | C5H4Cl2N2
reactant | methyl 2-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate | 1.0 mmol, 210 mg | COC1=C(C(=O)OC)C=CC(=C1)B1OC(C(O1)(C)C)(C)C | C15H21BO5
reactant | n-propanol | 1 mL | C(CC)O | C3H8O
reactant | sodium bicarbonate | 2 M, 1.5 μL | C([O-])(O)=O.[Na+]
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
product | methyl 4-(2-chloro-5-methylpyrimidin-4-yl)-2-methoxybenzoate | 165 mg, 56% | ClC1=NC=C(C(=N1)C1=CC(=C(C(=O)OC)C=C1)OC)C | C14H13ClN2O3
